US07105531B2
4-Hydroxybenzo[4,5]furo[3,2-b]pyridine-3-carbonitrile
A solution of 1.5 mL (30.0 mmol) of acetonitrile in 30 mL of tetrahydrofuran is added to a −78° C. solution of 11.4 mL of 2.5 M n-butyllithium (29.00 mmol) in 35 mL of tetrahydrofuran. After stirring at −78° C. for 15 min a solution of 3.7 g (14.2 mmol) of 3-(dimethylaminomethyleneamino)benzofuran-2-carboxylic acid ethyl ester in 50 mL of tetrahydrofuran is added dropwise. After stirring at −78° C. for 30 minutes, the reaction mixture is allowed to warm to 0° C. The reaction mixture is cooled to −78° C. and 3 mL of acetic acid is added. The solution is warmed to room temperature and the resulting precipitate is collected. This solid is combined with 20 mL of acetic acid and heated at reflux temperature for 1.5 hours. The mixture is cooled to room temperature and the solid is collected by filtration washing with saturated sodium bicarbonate, water, diethyl ether and ethyl acetate to provide 2.45 g of a red solid, mp>310° C.

reactant | acetonitrile | 30.0 mmol, 1.5 mL | C(C)#N | C2H3N
reactant | n-butyllithium | 29.00 mmol, 2.5 M, 11.4 mL | C(CCC)[Li]
reactant | 3-(dimethylaminomethyleneamino)benzofuran-2-carboxylic acid ethyl ester | 14.2 mmol, 3.7 g | C(C)OC(=O)C=1OC2=C(C1N=CN(C)C)C=CC=C2 | C14H16N2O3
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-Hydroxybenzo[4,5]furo[3,2-b]pyridine-3-carbonitrile | 2.45 g | OC1=C2C(=NC=C1C#N)C1=C(O2)C=CC=C1 | C12H6N2O2
